US07265149B2
a] 3-(4-Chloro-benzoyl)-2-oxo-pentanoic acid ethyl ester
Under anhydrous conditions, a solution of potassium t-butoxide (292 mg, 2.6 mmol) in diethyl ether (100 ml) was cooled to −78° C. and stirred for 10 min under an argon atmosphere. Commercial 2 M LDA in heptane/THF/ethyl benzene (13 ml, 26 mmol) was added by syringe and the mixture stirred for 15 min. 4-Chlorobutyrophenone (5 g, 26 mmol) in diethyl ether (35 ml) was added dropwise over 30 min with stirring. After a further 30 min, diethyl oxalate (3.53 ml, 26 mmol) was added in one portion. The cooling bath was removed and the reaction stirred for 2.5 h after reaching ambient temperature. After standing 3 days, the precipitated brown solid was filtered. The solid was partitioned between 1 M HCl and ethyl acetate. The aqueous layer was extracted two times with ethyl acetate, the combined extracts were washed with brine and dried over sodium sulfate. Evaporation of the solid gave 740 mg (4.6 mmol, 18%) of the title compound as orange oil.

reactant | potassium t-butoxide | 2.6 mmol, 292 mg | CC(C)([O-])C.[K+]
reactant | LDA | 2 M | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF ethyl benzene | 26 mmol, 13 ml | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | 4-Chlorobutyrophenone | 26 mmol, 5 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | diethyl oxalate | 26 mmol, 3.53 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 35 ml | C(C)OCC | C4H10O
product | 3-(4-Chloro-benzoyl)-2-oxo-pentanoic acid ethyl ester | 4.6 mmol, 740 mg, 18% | C(C)OC(C(C(CC)C(C1=CC=C(C=C1)Cl)=O)=O)=O | C14H15ClO4
